US08802664B2
To a solution of 1-pyrrolidin-1-ylmethyl-1H-benzimidazole (5 g) in tetrahydrofurane (20 mL) cooled at a temperature close to −80° C., is added a 2.5M solution of butyl lithium in hexanes (10 mL). The mixture is stirred for 15 minutes. A solution of benzaldehyde (2.64 g) in tetrahydrofurane (20 mL) is added. The mixture is stirred at a temperature close to −80° C. for 1 hour, then at a temperature close to −20° C. for 2 hours. The reaction is quenched by addition of saturated ammonium chloride. The mixture is extracted with ethyl acetate. Pooled extracts are washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by column chromatography over silica gel (gradient dichloromethane/methanol from 100/0 to 90/10) to give (1H-benzimidazol-2-yl)phenylmethanol used without further purification.

reactant | 1-pyrrolidin-1-ylmethyl-1H-benzimidazole | 5 g | N1(CCCC1)CN1C=NC2=C1C=CC=C2 | C12H15N3
reactant | butyl lithium | C(CCC)[Li]
reactant | benzaldehyde | 2.64 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofurane | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 20 mL | O1CCCC1 | C4H8O
product | (1H-benzimidazol-2-yl)phenylmethanol | N1C(=NC2=C1C=CC=C2)C(O)C2=CC=CC=C2 | C14H12N2O
